US08729098B2
8-Hydroxyquinoline-7-carbonyl chloride
Thionyl chloride (906 mg, 7.61 mmol) was added drop wise to a cold solution of 8-hydroxyquinoline-7-carboxylic acid (1.2 g, 6.34 mmol) in dry DCM (18 mL). The reaction mixture was allowed to warm to RT and was then stirred under nitrogen for 4 h. The reaction mixture was then concentrated to dryness affording the title compound (1.3 g, 6.26 mmol) that was used in the next steps without any further purification.

reactant | Thionyl chloride | 7.61 mmol, 906 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 8-hydroxyquinoline-7-carboxylic acid | 6.34 mmol, 1.2 g | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
solvent | DCM | 18 mL | C(Cl)Cl | CH2Cl2
product | 8-Hydroxyquinoline-7-carbonyl chloride | 6.26 mmol, 1.3 g | OC=1C(=CC=C2C=CC=NC12)C(=O)Cl | C10H6ClNO2
